US06750252B2
3-[3-Benzyl-4-({4-[(methylsulfonyl)oxy]phenethyl}oxy)phenyl]-2-ethoxypropanoic acid
Ethyl 3-[3-benzyl-4-({4-[(methylsulfonyl)oxy]phenethyl}oxy)phenyl]-2-ethoxypropanoate—Example 5 (0.23 g; 0.42 mmole) was dissolved in THF and water (2:1), lithium hydroxide (0.014 g; 0.59 mmole) was added and the reaction mixture was stirred over night. Water was added and the THF evaporated. The remaining water was acidified with diluted hydrochloric acid and extracted with ethyl acetate. The organic phase was dried with magnesium sulfate. Evaporation gave 0.15 g (70% yield) of the product.

reactant | Ethyl 3-[3-benzyl-4-({4-[(methylsulfonyl)oxy]phenethyl}oxy)phenyl]-2-ethoxypropanoate | C(C1=CC=CC=C1)C=1C=C(C=CC1OCCC1=CC=C(C=C1)OS(=O)(=O)C)CC(C(=O)OCC)OCC | C29H34O7S
reactant | lithium hydroxide | 0.59 mmole, 0.014 g | [OH-].[Li+]
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-[3-Benzyl-4-({4-[(methylsulfonyl)oxy]phenethyl}oxy)phenyl]-2-ethoxypropanoic acid | 0.15 g, 70% yield | C(C1=CC=CC=C1)C=1C=C(C=CC1OCCC1=CC=C(C=C1)OS(=O)(=O)C)CC(C(=O)O)OCC | C27H30O7S
